US08461339B2
C. 1-(2-Chloro-pyridin-4-ylmethyl)-4-(N-methylcarbamoyl)piperazine
1-Boc-4-(N-methylcarbamoyl)piperazine was treated with 8 M HCl/EtOAc to afford a salt, then the salt (1.0 equiv) was mixed with 2-chloro-4-(chloromethyl)pyridine (1.0 equiv) (Preparation B-11) and K2CO3 (4 equiv) in DMF. The mixture was stirred for 1 h at rt. After removing most of the solvent, the residue was partitioned in water and EtOAc. The organic layer was separated, dried over anhydrous Na2SO4, and evaporated in vacuo. The residue was purified by flash chromatography to give the title compound as a solid (˜90% yield).

reactant | 1-Boc-4-(N-methylcarbamoyl)piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C(NC)=O | C11H21N3O3
reactant | HCl EtOAc | 8 M | Cl.CCOC(=O)C
reactant | 2-chloro-4-(chloromethyl)pyridine | 1.0 equiv | ClC1=NC=CC(=C1)CCl | C6H5Cl2N
reactant | K2CO3 | 4 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2-Chloro-pyridin-4-ylmethyl)-4-(N-methylcarbamoyl)piperazine | ˜90% yield | ClC1=NC=CC(=C1)CN1CCN(CC1)C(NC)=O | C12H17ClN4O
